US04959361
4-(2-Chlorophenyl)-9-methyl-2-[3-(3-pyridinyloxy)-1-propynyl]-6H-thieno [3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine
Coupling of 4-(2-chlorophenyl)-2-iodo-9-methyl -6H-thieno[3,2-f][1,2,4] triazolo[4,3-a][1,4]diazepine with 1-(3-pyridinyloxy)-2-propyne [ref. J. Bruhn J., Zsindely, H. Schmid and G. Frater, Helv. Chim. Acta 61, 2542 (1978)] under conditions described in EXAMPLE 37 yielded after the usual chromatographic isolation resinous material containing the title compound which did not crystallize and was therefore characterized spectroscopically only. Nmr (CDCl3): 2.72 ppm (s,3,Me) 4.95 (s,4,CH2 ; C6 -H), 6.8 (s.1,C3 -H) 7.2-7.6 (m,6,aromatic H), 8.26 (m,1,) and 8.36 (broad s,1) pyridine C2 and C6 -H).

reactant | 4-(2-chlorophenyl)-2-iodo-9-methyl -6H-thieno[3,2-f][1,2,4] triazolo[4,3-a][1,4]diazepine | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(S3)I)C(=NN2)C | C15H10ClIN4S
reactant | 1-(3-pyridinyloxy)-2-propyne | N1=CC(=CC=C1)OCC#C | C8H7NO
product | 4-(2-Chlorophenyl)-9-methyl-2-[3-(3-pyridinyloxy)-1-propynyl]-6H-thieno [3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(S3)C#CCOC=3C=NC=CC3)C(=NN2)C | C23H16ClN5OS
